US06485746B1
Step 5: N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide
A mixture of 3-acetamidoacetophenone (3 kg; Lancaster), dimethylformamide dimethylacetal (7 L; Lancaster) and toluene (12 L; Mallinckrodt) is heated at reflux and methanol collected as it is formed. The mixture is heated overnight and a precipitate forms during this time. The reaction may be monitored by TLC analysis (EtOAc: starting material Rf=0.46; product Rf=0.10) to ensure it goes to completion. The reaction mixture is cooled and the solid is collected by filtration. The cake is washed with hexanes (4 L) then dried to give 3.77 kg (95% yield) of a light yellow powder.

reactant | 3-acetamidoacetophenone | 3 kg | CC(=O)C1=CC(=CC=C1)NC(=O)C | C10H11NO2
reactant | dimethylformamide dimethylacetal | 7 L | COC(N(C)C)OC | C5H13NO2
reactant | toluene | 12 L | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide | 3.77 kg, 95% yield | CN(C=CC(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
